US04668680
This product can be converted to 5-acetylamino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester by a three step reaction. The 2-acetylamino-3,4,5,6-tetrafluoro-β-oxobenzene-propanoic acid ethyl ester is first treated with triethylorthoformate and acetic anhydride. After removal of the solvent the residue is treated with a solution of cyclopropylamine in t-butanol. After the reaction is complete a solution of potassium t-butoxide in t-butanol is added. The resulting product is 5-acetylamino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester. The ester is hydrolyzed to form 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid.

reactant | 5-acetylamino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=C(C(=C(C(=C2C1=O)NC(C)=O)F)F)F)C1CC1 | C17H15F3N2O4
reactant | 2-acetylamino-3,4,5,6-tetrafluoro-β-oxobenzene-propanoic acid ethyl ester | C(C)OC(CC(C1=C(C(=C(C(=C1F)F)F)F)NC(C)=O)=O)=O | C13H11F4NO4
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
